US09303023B2
1-(3-Indol-1-yl-propyl)-1H-pyrazol-4-ylamine
A solution of 1-[3-(2,3-dihydro-indol-1-yl)-propyl]-1H-pyrazol-4-ylamine (200 mg, 0.83 mmol) in acetone (1.0 mL) was added dropwise to a suspension of MnO2 (275 mg, 3.17 mmol) in acetone (2.0 mL). The resulting dark reaction mixture was stirred at rt overnight, then filtered over celite, washed with acetone and the solvent was removed under reduced pressure to yield the title compound which was used without further purification in the next step. LC-MS conditions B: tR=0.51 min, [M+H]+=241.20.

reactant | 1-[3-(2,3-dihydro-indol-1-yl)-propyl]-1H-pyrazol-4-ylamine | 0.83 mmol, 200 mg | N1(CCC2=CC=CC=C12)CCCN1N=CC(=C1)N | C14H18N4
solvent | acetone | 1.0 mL | CC(=O)C | C3H6O
solvent | acetone | 2.0 mL | CC(=O)C | C3H6O
catalyst | MnO2 | 3.17 mmol, 275 mg | O=[Mn]=O
product | 1-(3-Indol-1-yl-propyl)-1H-pyrazol-4-ylamine | N1(C=CC2=CC=CC=C12)CCCN1N=CC(=C1)N | C14H16N4
